US07989642B2
Arachidonic acid (2.0 g, 6.6 mmol) was dissolved in benzene (20 ml). To this solution, oxalyl chloride (5.4 ml, 7.9 mmol) was added and the mixture was stirred at room temperature in a nitrogen atmosphere for 2.5 hours. Subsequently, the mixture was concentrated under reduced pressure to obtain arachidonyl chloride as an oily product. Meanwhile, L-ascorbic acid (1.4 g, 7.9 mmol) was added to a mixture of N-methylpyrrolidone (15 ml) and 4N-HCl/dioxane (2.4 ml) and the mixture was chilled on ice. To this solution, the arachidonyl chloride in methylene chloride (approx. 2 ml) was added, and the mixture was stirred overnight while chilled on ice. Upon completion of the reaction, water was added and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with water (twice), was dried over anhydrous magnesium sulfate, and was concentrated under reduced pressure. The resulting residue was purified by silica gel chromatography (eluant=methanol/methylene chloride (1% to 20% methanol gradient)) and was dried under reduced pressure to give the desired product as a paste (2.7 g, 90% yield).

reactant | Arachidonic acid | 6.6 mmol, 2.0 g | C(CCC\C=C/C\C=C/C\C=C/C\C=C/CCCCC)(=O)O | C20H32O2
reactant | oxalyl chloride | 7.9 mmol, 5.4 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
product | arachidonyl chloride | C(CCC\C=C/C\C=C/C\C=C/C\C=C/CCCCC)Cl | C20H33Cl
